US06903089B1
XI a) (3,5-Dioxo-10-oxa-4-azatricyclo[5.2.1.02,6]dec-4-yl)acetonitrile
Synthesis took place in analogy to Example VI a from 10-oxa-4-azatricyclo[5.2.1.02,6]decane-3,5-dione (obtainable from maleimide and furan from Diels-Alder reaction for example as described by Padwa, A.; Dimitroff, M.; Waterson, A. G.; Wu, T.; J Org Chem 1997, 62, 4088-4096 and subsequent hydrogenation as described by Ansell, M. F.; Caton, M. P. L.; North, P. C.; Tetrahedron Lett. 1982, 23, 2811) and bromoacetonitrile with the exception that acetone was used as solvent in place of DMF. The substance was employed as crude product in the next reaction.

reactant | 10-oxa-4-azatricyclo[5.2.1.02,6]decane-3,5-dione | C12C3C(NC(C3C(CC1)O2)=O)=O | C8H9NO3
reactant | maleimide | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | furan | O1C=CC=C1 | C4H4O
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
solvent | acetone | CC(=O)C | C3H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | (3,5-Dioxo-10-oxa-4-azatricyclo[5.2.1.02,6]dec-4-yl)acetonitrile | O=C1C2C3CCC(C2C(N1CC#N)=O)O3 | C10H10N2O3
